US07291619B2
1-Boc-4-[2-(acetyl-isobutyl-amino)-phenyl]-piperazine
To a solution of N-boc-4-(2-isobutylamino-phenyl)-piperazine (333 mg, 1.0 mmol, 1.0 eq), Et3N (0.42 mL, 3.0 mmol, 3.0 eq) and DMAP (6 mg, 0.05 mmol, 0.05 eq) in DCM (10 mL) was added acetic anhydride (0.14 mL, 1.5 mmol, 1.5 eq). The mixture was stirred at r.t. overnight. The reaction was diluted with DCM (50 mL) and washed with saturated aqueous NaHCO3 (25 mL) and brine (25 mL). The organic layer was separated and aqueous layer was extracted with DCM (2×). The combined organic extracts were dried (Na2SO4), filtered and concentrated to afford the title compound (375 mg, 1.0 mmol, 100%). LRMS (ESI+): 376.18 (M+1)

reactant | N-boc-4-(2-isobutylamino-phenyl)-piperazine | 1.0 mmol, 333 mg, 1.0 eq | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)NCC(C)C | C19H31N3O2
reactant | Et3N | 3.0 mmol, 0.42 mL, 3.0 eq | CCN(CC)CC | C6H15N
reactant | acetic anhydride | 1.5 mmol, 0.14 mL, 1.5 eq | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 0.05 mmol, 6 mg, 0.05 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-Boc-4-[2-(acetyl-isobutyl-amino)-phenyl]-piperazine | 1.0 mmol, 375 mg, 100% | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)N(CC(C)C)C(C)=O | C21H33N3O3
